US08835449B2
6-(2,6-Dimethoxypyridin-3-yl)-1-(2-hydroxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one
To a solution of (Z)-ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-((2-hydroxyethyl)amino)acrylate (100 mg, 0.34 mmol) in 2-MeTHF (1.0 mL) was added (trimethylsilyl)isothiocyanate (0.30 mL, 2.0 mmol) and the reaction mixture was heated at 80° C. for 4 hours. The cooled reaction mixture was diluted with EtOAc and washed with a saturated aqueous sodium bicarbonate solution. The layers were separated and the organic layer was concentrated in vacuo. The residue was triturated with MeOH and the resulting solids were collected by vacuum filtration to give the title compound (16 mg, 16%) as a white solid.

reactant | (Z)-ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-((2-hydroxyethyl)amino)acrylate | 0.34 mmol, 100 mg | COC1=NC(=CC=C1/C(=C/C(=O)OCC)/NCCO)OC | C14H20N2O5
reactant | (trimethylsilyl)isothiocyanate | 2.0 mmol, 0.30 mL | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | 2-MeTHF | 1.0 mL | CC1CCCO1 | C5H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2,6-Dimethoxypyridin-3-yl)-1-(2-hydroxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 16 mg, 16% | COC1=NC(=CC=C1C1=CC(NC(N1CCO)=S)=O)OC | C13H15N3O4S
